US07968570B2
5-(2,2,2-trifluoro-ethoxy)-7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one
A mixture of 5-bromo-7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one (0.110 g, 0.298 mmol), palladium(II) acetate (0.004 g, 0.02 mmol), rac-2-(di-t-butylphosphino)-1,1′-binaphthyl (0.009 g, 0.025 mmol), and cesium carbonate (0.163 g, 0.5 mmol) in toluene (5 mL) was treated with 2,2,2-trifluoro ethanol (0.061 mL, 0.6 mmol) and stirred at 110° C. for 12 h. After this time the solvent was evaporated and silica gel column chromatography using, typically 30% ethyl acetate in hexane, afforded the desired product (0.040 g, 34%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.19 (s, 2H), 4.39 (q, 2H), 4.73 (s, 2H), 6.86 (s, 1H), 6.98 (s, 1H), 7.23 (d, 2H), 7.34 (d, 2H). GC-MS: m/z 389 (M)+0.354, (M−35)+.

reactant | 5-bromo-7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one | 0.298 mmol, 0.110 g | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)Cl | C15H10BrCl2NO
reactant | rac-2-(di-t-butylphosphino)-1,1′-binaphthyl | 0.025 mmol, 0.009 g | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | cesium carbonate | 0.5 mmol, 0.163 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoro ethanol | 0.6 mmol, 0.061 mL | FC(CO)(F)F | C2H3F3O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.02 mmol, 0.004 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(2,2,2-trifluoro-ethoxy)-7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one | 0.040 g, 34% | FC(COC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)Cl)(F)F | C17H12Cl2F3NO2
